US08044068B2
Methyl 5-chloro-2-(2-(triphenyl-λ5-phosphanyliden)-acetylamino)benzoate (3.8 g) was heated at 180° C. for 1 h. The reactant was suspended in chloroform and diisopropyl ether. Solids were collected by filtration and dried to obtain 6-chloro-4-methoxyquinoline-2(1H)-one (1.1 g). (3) A mixture of 6-chloro-4-methoxyquinoline-2(1H)-one (1.1 g), N,N-dimethylaniline (1 mL), and phosphorus oxychloride (4 mL) was stirred at 80° C. to 90° C. for 10 h. The reaction solution was added dropwise to ice water and extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate, followed by addition of silica gel. The desiccant and silica gel were removed by filtration, and the filtrate was concentrated under reduced pressure to obtain 2,6-dichloro-4-methoxyquinoline (1.2 g) as pale yellow crystals.

reactant | Methyl 5-chloro-2-(2-(triphenyl-λ5-phosphanyliden)-acetylamino)benzoate | 3.8 g | ClC=1C=CC(=C(C(=O)OC)C1)NC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H23ClNO3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 6-chloro-4-methoxyquinoline-2(1H)-one | 1.1 g | ClC=1C=C2C(=CC(NC2=CC1)=O)OC | C10H8ClNO2
